US09023847B2
106. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-amino-1-(3-fluoro-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using tert-butyl [2-amino-2-(3-fluorophenyl)ethyl]carbamate instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 496 (M+H) followed by deprotection in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-pyrrolidin-2-ylmethyl)-amide. LCMS (ESI) 396 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.42 (1H, br. s.) 10.87 (1H, s) 9.24 (1H, d, J=8.59 Hz) 8.20 (1H, br. s.) 8.01 (1H, d, J=6.78 Hz) 7.95 (1H, d, J=5.22 Hz) 7.41 (1H, dd, J=3.51, 2.59 Hz) 7.32 (1H, d, J=5.22 Hz) 7.18-7.27 (1H, m) 7.13-7.17 (1H, m) 7.10 (1H, dd, J=12.89, 1.61 Hz) 7.04 (1H, td, J=8.90, 3.29 Hz) 6.94 (1H, br. s.) 6.58 (1H, d, J=6.93 Hz) 5.32 (1H, dd, J=18.28, 4.32 Hz) 3.18 (1H, dd, J=11.86, 5.12 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | tert-butyl [2-amino-2-(3-fluorophenyl)ethyl]carbamate | NC(CNC(OC(C)(C)C)=O)C1=CC(=CC=C1)F | C13H19FN2O2
reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-pyrrolidin-2-ylmethyl)-amide | N1[C@H](CCC1)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H19N5OS
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-amino-1-(3-fluoro-phenyl)-ethyl]-amide | NCC(C1=CC(=CC=C1)F)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H18FN5OS
